US04544670
Step II. 1-(4-methoxyphenylacetyl)-3-methylguanidine hydrochloride
A mixture of 8.80 g of a 50% aqueous sodium hydroxide solution, 13.44 g of methylguanidine sulfate and 100 ml acetone is stirred for 21/2 hrs at RT. 6.0 g of anhydrous sodium sulfate are added to the mixture, and stirring continued for 1 hr. 4-methoxyphenylacetyl chloride (9.23 g) in 50 ml acetone is added, and the reaction mixture stirred overnight at RT. The reaction mixuture is filtered and the filtrate is diluted with 100 ml of saturated aqueous sodium bicarbonate and the acetone evaporated in vacuo. The aqueous phase is diluted with 100 ml H2O and extracted with two 100 ml portions of methylene chloride. The combined organic extracts are dried with sodium sulfate, filtered and concentrated in vacuo. The resulting preccipitate is dissolved in a small volume of methanol and acidified with ethereal hydrochloric acid. The solvent is evaporated in vacuo, and the residue stirred with 200 ml of diethyl ether. The solid is collected, dried in air and recrystallized from acetonitrile to afford 4.80 g of white solid, M.P. 189° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylguanidine sulfate | 13.44 g | S(=O)(=O)(O)O.CNC(=N)N
reactant | sodium sulfate | 6.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxyphenylacetyl chloride | 9.23 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(4-methoxyphenylacetyl)-3-methylguanidine hydrochloride | 4.80 g | Cl.COC1=CC=C(C=C1)CC(=O)NC(=N)NC | InChI=1S/C11H15N3O2.ClH/c1-13-11(12)14-10(15)7-8-3-5-9(16-2)6-4-8;/h3-6H,7H2,1-2H3,(H3,12,13,14,15);1H
